US04550107
5-[3-[2-[(Diethylamino)methyl]-1-piperidinyl]-1-oxopropyl]-5,10-Dihydro-11H-dibenzo[b,e][1,4]diazepin-11-one
The title compound is prepared analogously to Example 1h from 5,10-dihydro-5-(1-oxopropen-1-yl)-11H-dibenzo[b,e][1,4]diazepin-11-one and 2-[(diethylamino)methyl]piperdine to give colorless crystals mp. 125°-127° C. (acetonitrile).

reactant | 5,10-dihydro-5-(1-oxopropen-1-yl)-11H-dibenzo[b,e][1,4]diazepin-11-one | O=C(C=C)N1C2=C(NC(C3=C1C=CC=C3)=O)C=CC=C2 | C16H12N2O2
reactant | 2-[(diethylamino)methyl]piperdine | C(C)N(CC)CC1NCCCC1 | C10H22N2
product | 5-[3-[2-[(Diethylamino)methyl]-1-piperidinyl]-1-oxopropyl]-5,10-Dihydro-11H-dibenzo[b,e][1,4]diazepin-11-one | C(C)N(CC)CC1N(CCCC1)CCC(=O)N1C2=C(NC(C3=C1C=CC=C3)=O)C=CC=C2 | C26H34N4O2
